US05578604
0.46 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid, 0.29 g of 4-methyl-octahydropyrrolo[3,4-c]pyrrole and 0.18 g of DABCO are refluxed for 2 hours in a mixture of 3 ml of acetonitrile and 1.5 ml of dimethylformamide. The reaction mixture is subsequently concentrated, and the residue is treated with 10 ml of water. The solid is filtered off with suction, washed with water and dried. 0.5 g of 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(5-methyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-4-oxo-5-vinyl-3-quinolinecarboxylic acid is obtained.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.46 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C=C)=O)C(=O)O | C15H10F3NO3
reactant | 4-methyl-octahydropyrrolo[3,4-c]pyrrole | 0.29 g | CC1C2C(CN1)CNC2 | C7H14N2
reactant | DABCO | 0.18 g | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(5-methyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC2CN(CC2C1)C)F)C=C)=O)C(=O)O | C22H23F2N3O3
